2168-09-01 19:21:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59W desaturated while at rehab and transferred to ER. Unclear whether
   prodrome occurred. In ER intubated for respiratroy distress and EKG
   showed ST elevations anteriorly and lateral depressions. Started on
   dopamine for shock and transferred for cath. Upon arrival, EKG
   improved. RHC performed to sort out shock while on dopa - PCWP 17 and
   mean PA pressure 27.
   Urine culture grew GNRs started on gent. CXR showed multifocal pna.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2168-8-31**] 07:00 PM
 BLOOD CULTURED - At [**2168-8-31**] 07:55 PM
 SPUTUM CULTURE - At [**2168-8-31**] 07:56 PM
 PA CATHETER - START [**2168-8-31**] 07:59 PM
 URINE CULTURE - At [**2168-8-31**] 09:00 PM
 ARTERIAL LINE - START [**2168-9-1**] 02:15 AM
 URINE CULTURE - At [**2168-9-1**] 06:00 AM
   UA
 FEVER - 101.1
C - [**2168-9-1**] 06:00 AM
   History obtained from housestaff
   Allergies:
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Shellfish
   Unknown;
   Glucophage (Oral) (Metformin Hcl)
   Unknown;
   Tetracycline
   Unknown;
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2168-8-31**] 09:00 PM
   Vancomycin - [**2168-9-1**] 02:22 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2168-9-1**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   SSS
   PPM
   CVA
   a-fib
   CAD
   DM2
   OSA on bipap
   asthma
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-9-1**] 07:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.7
   HR: 71 (70 - 75) bpm
   BP: 130/60(80) {89/43(57) - 130/65(83)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Wgt (current): 129.5 kg (admission): 129.5 kg
   Height: 71 Inch
   CVP: 12 (9 - 16)mmHg
   PAP: (34 mmHg) / (16 mmHg)
   CO/CI (Fick): (10 L/min) / (4.1 L/min/m2)
   Mixed Venous O2% Sat: 74 - 79
   Total In:
                                                                    788 mL
                                                                  1,048 mL
   PO:
   TF:
   IVF:
                                                                    788 mL
                                                                    918 mL
   Blood products:
   Total out:
                                                                  3,030 mL
                                                                  1,197 mL
   Urine:
                                                                  2,030 mL
                                                                  1,197 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,242 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 25 cmH2O
   Compliance: 28 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/39/104/25/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Overweight / Obese, arousable
   ETT inplace, right IJ in place
   neck supple
   hrt RRR
   Lung coarse vented breath sounds
   abd benign
   extrem no edema
   Labs / Radiology
   11.4
   300 K/uL
   240 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   15 mg/dL
   104 mEq/L
   136 mEq/L
   34
   17.7 K/uL
        [image002.jpg]
                             [**2168-8-31**]  09:47 PM
                             [**2168-9-1**]  01:24 AM
                             [**2168-9-1**]  04:00 AM
                             [**2168-9-1**]  04:20 AM
                             [**2168-9-1**]  11:33 AM
                             [**2168-9-1**]  11:40 AM
                             [**2168-9-1**]  12:29 PM
                             [**2168-9-1**]  12:46 PM
                             [**2168-9-1**]  05:38 PM
                             [**2168-9-1**]  05:40 PM
   WBC
   20.9
   17.7
   Hct
   39.8
   36.4
   35
   34
   Plt
   303
   300
   Cr
   0.8
   0.8
   TropT
   0.05
   0.04
   0.04
   TCO2
   31
   30
   27
   29
   28
   Glucose
   357
   240
   Other labs: PT / PTT / INR:28.5/47.6/2.8, CK / CKMB /
   Troponin-T:80/8/0.04, Differential-Neuts:78.5 %, Lymph:16.0 %, Mono:2.7
   %, Eos:2.3 %, Lactic Acid:1.3 mmol/L, LDH:385 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: echo - compression of IVC, otherwise
   normal
   Imaging: CXR bilateral multifocal infiltrates, PA catheter in place
   Microbiology: urine culture growing klebs
   BCx pending
   ECG: EKG a-paced, no obvious ischemia
   Assessment and Plan
   pna / UTI / septic shock / resp failure - antibiotc choice very
   difficult in light of allergies, will continue vanco though gram
   negative and atypical coverage challenging, will use aztreonam and
   gent. Will continue to wean dopamine and bolus IVF for poor UO and
   drops in CVP. Await micro data. Wean vent as tolerated.
   EKG changes
 cardiac enzymes reassuring, follow tracings
   DM
 on SSI
   a-fib
 holding sotolol for now, hold coumadin until INR < 2.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-8-31**] 07:45 PM
   18 Gauge - [**2168-8-31**] 07:45 PM
   PA Catheter - [**2168-8-31**] 07:59 PM
   Arterial Line - [**2168-9-1**] 02:15 AM
   Prophylaxis:
   DVT: Boots, anticoagulated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2168-09-03 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2168-9-2**] 10:15 AM
 INVASIVE VENTILATION - STOP [**2168-9-2**] 01:15 PM
   -extubated
   -gives the following allergy history: pen-->stomach pain, doxy-->hives,
   biaxin--> hallucinations, vanc--> diarrhea
   -pt denies allergy to zpac
   -got 3 500cc boluses over course of day and evening, no pressors
   -Maps in 50s while asleep but making good urine, decided to leave alone
   (will give 500cc if sbp <85 on noninvasive which seems to be [**Location (un) 308**]
   higher)
   Allergies:
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Shellfish
   Unknown;
   Glucophage (Oral) (Metformin Hcl)
   Unknown;
   Tetracycline
   Hives;
   Penicillins
   Nausea/Vomiting
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   hallucination;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2168-9-2**] 01:30 PM
   Vancomycin - [**2168-9-2**] 08:00 PM
   Gentamicin - [**2168-9-2**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-9-3**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 72 (70 - 77) bpm
   BP: 102/45(63) {82/34(48) - 126/55(75)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Wgt (current): 128.1 kg (admission): 129.5 kg
   Height: 71 Inch
    CVP: 2 (1 - 7)mmHg
   Total In:
                                                                  3,459 mL
                                                                    177 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  3,339 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  2,741 mL
                                                                  1,220 mL
   Urine:
                                                                  2,741 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    718 mL
                                                                 -1,043 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 850 (850 - 850) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.40/42/117/26/1
   Ve: 8.5 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Gen: calm, NAD
   Cv: rrr no m/r/g
   Resp: cta anteriorly, decreased breath sounds at the bases
   Abd: soft, +BS
   Ext: wwp, 2+DP b/l, tr edema R foot (pt says this is chronic sp knee
   replacement)
   Labs / Radiology
   198 K/uL
   9.6 g/dL
   128 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   10 mg/dL
   108 mEq/L
   140 mEq/L
   29.4 %
   8.2 K/uL
                             [**2168-9-1**]  12:46 PM
                             [**2168-9-1**]  05:38 PM
                             [**2168-9-1**]  05:40 PM
                             [**2168-9-2**]  04:09 AM
                             [**2168-9-2**]  04:29 AM
                             [**2168-9-2**]  05:53 AM
                             [**2168-9-2**]  10:37 AM
                             [**2168-9-2**]  03:20 PM
                             [**2168-9-3**]  04:59 AM
                             [**2168-9-3**]  05:10 AM
   WBC
   9.2
   8.2
   Hct
   34
   30.9
   29.4
   Plt
   191
   198
   Cr
   0.8
   0.9
   TCO2
   29
   28
   29
   25
   26
   28
   27
   Glucose
   187
   128
   Other labs: PT / PTT / INR:35.6/36.7/3.7, CK / CKMB /
   Troponin-T:80/8/0.04, Differential-Neuts:78.5 %, Lymph:16.0 %, Mono:2.7
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, LDH:385 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Microbiology: GNRs from urine, [**12-20**] GPCs from blood
   From osh: klebs from urine s to cefuroxime and cefazolin
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SHOCK, OTHER
   ASSESSMENT AND PLAN: 57 year old female with hx DM II, CAD s/p MI, AFib
   s/p [**Hospital 10260**] transferred from OSH for cardiac cath. Patient with multifocal
   pneumonia and presumed urosepsis.
   .
   #Hypotension/Urosepsis: Supported by elevated WBC, left shift and
   positive urine culture at OSH. Febrile yesterday.  Right heart cath
   demonstrates hyperdynamic septic shock. Due to complicated allergy
   history patient received Gentamicin in cath lab. By early goal directed
   therapy patient has been adequately resuscitated based on PCWP 15.
   Also with
 bottles GPC- has 2 PIV
s, R IJ, a line placed currently. PA
   catheter replaced with R IJ yesterday, placed over wire. Added on
   aztreonam and vancomycin to gentamicin yesterday.
   - continue gentamicin, aztreonam, vancomycin, patient receiving
   gentamicin 450 mg IV for daily dosing. Day 1 of gentamicin [**2168-8-31**].
   Aztreonam/vanco started on [**2168-9-1**]. Vanco for pneumonia coverage. Will
   try to add on sensitivities for aztreonam to urine from [**Hospital1 **] [**Location (un) 1415**] in
   case have renal issues with gentamicin.
   -would favor start cefuroxime given that pen allergy was nausea, will
   confirm that allergy to keflex was not concerning
   -continue vanc pending culture data from GPCs in blood
   -day [**1-21**] of azithromycin empiric treatment for atypical pna
   -obtain peak and trough levels around the 4th dose of therapy  if
   continue gent
   -continue boluses prn
   -follow-up blood, urine and sputum cultures
   -liver cyst likely not infectious in nature based on prelim reports
   from RUQ u/s. Will defer CT for now since will likely need contrast and
   already getting gentamycin and hypotensive.
   -resp viral antigen neg, cultures pending
   -holding sotolol in setting of hypotension
   .
   # Hypoxic respiratory failure: Improved, pt doing well extubated.
   .
   #Complex Liver Cyst: Possibly suggestive of abscess; will consider CT
   in future to further evaluate.
   .
   # Cardiac: No suggestion of ACS. Received ASA and heparin prior to
   transfer. CATH [**2164**] demonstrated 20% LMCA, 20-30% LAD, LCx 30% OM3, RCA
   minimal luminal irregularities to 30% distally.
   - trend troponins- 0.05-0.04-0.04
   - Continue outpatient Aspirin 162 mg daily
   .
   # AFib on sotalol and coumadin. Sick sinus syndrome s/p PPM EKG
   demonstrates A-paced rhythm.
   - Hold Sotalol in setting of hypotension
   - INR trending upwards in setting of [**Last Name (LF) **], [**First Name3 (LF) 178**] continue to hold
   .
   # Diabetes mellitus, type 2: ISS
   .
   # History CVA: Continue Keppra 500 mg b.i.d.
   .
   # Hyperlipidemia: Continue Lipitor 20 mg daily
   .
   # HTN: Patient on no outpatient medication, cardiologist was
   considering ACE. Currently hypotensive and requiring levophed.
   .
   # Asthma: intubated.
   .
   # GERD: Continue IV ppi.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-8-31**] 07:45 PM
   18 Gauge - [**2168-8-31**] 07:45 PM
   Arterial Line - [**2168-9-1**] 02:15 AM
   Cordis/Introducer - [**2168-9-1**] 07:45 PM
   Multi Lumen - [**2168-9-1**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-09-04 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - unable to pull cordis due to high INR and floor wouldn't take
   patient- given vitamin K
   Allergies:
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Shellfish
   Unknown;
   Glucophage (Oral) (Metformin Hcl)
   Unknown;
   Tetracycline
   Hives;
   Penicillins
   Nausea/Vomiting
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   hallucination;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2168-9-2**] 01:30 PM
   Gentamicin - [**2168-9-2**] 09:00 PM
   Ceftriaxone - [**2168-9-3**] 04:20 PM
   Vancomycin - [**2168-9-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-9-3**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-9-4**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 73 (70 - 76) bpm
   BP: 109/54(72) {92/42(58) - 146/69(91)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 129.3 kg (admission): 129.5 kg
   Height: 71 Inch
    CVP: 9 (2 - 14)mmHg
   Total In:
                                                                  2,359 mL
                                                                    187 mL
   PO:
                                                                  1,390 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    969 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                    470 mL
   Urine:
                                                                  4,210 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,851 mL
                                                                   -283 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 96%
   ABG: 7.41/42/71//1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   9.8 g/dL
   128 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   10 mg/dL
   108 mEq/L
   140 mEq/L
   30.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2168-9-1**]  05:40 PM
                             [**2168-9-2**]  04:09 AM
                             [**2168-9-2**]  04:29 AM
                             [**2168-9-2**]  05:53 AM
                             [**2168-9-2**]  10:37 AM
                             [**2168-9-2**]  03:20 PM
                             [**2168-9-3**]  04:59 AM
                             [**2168-9-3**]  05:10 AM
                             [**2168-9-3**]  02:32 PM
                             [**2168-9-4**]  06:00 AM
   WBC
   9.2
   8.2
   6.7
   Hct
   34
   30.9
   29.4
   30.6
   Plt
   191
   198
   228
   Cr
   0.8
   0.9
   TCO2
   29
   25
   26
   28
   27
   28
   Glucose
   187
   128
   Other labs: PT / PTT / INR:35.6/36.7/3.7, CK / CKMB /
   Troponin-T:80/8/0.04, Differential-Neuts:78.5 %, Lymph:16.0 %, Mono:2.7
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, LDH:385 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Microbiology: [**2168-9-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2168-9-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2168-9-1**]  Influenza A/B by DFA DIRECT INFLUENZA A ANTIGEN TEST-FINAL;
   DIRECT INFLUENZA B ANTIGEN TEST-FINAL; Respiratory Viral Antigen
   Screen-FINAL; Respiratory Viral Culture-PRELIMINARY INPATIENT
   [**2168-9-1**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2168-9-1**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2168-8-31**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2168-8-31**]  URINE URINE CULTURE-FINAL {KLEBSIELLA PNEUMONIAE} INPATIENT
   [**2168-8-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2168-8-31**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY
   {STAPHYLOCOCCUS, COAGULASE NEGATIVE}; Aerobic Bottle Gram Stain-FINAL;
   Anaerobic Bottle Gram Stain-FINAL INPATIENT
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SHOCK, OTHER
   ASSESSMENT AND PLAN: 57 year old female with hx DM II, CAD s/p MI, AFib
   s/p [**Hospital 10260**] transferred from OSH for cardiac cath. Patient with multifocal
   pneumonia and presumed urosepsis.
   .
   #Sepsis: Supported by elevated WBC, left shift and positive urine
   culture at OSH for klebs. Febrile yesterday.  Right heart cath
   demonstrates hyperdynamic septic shock. Due to complicated allergy
   history patient received Gentamicin in cath lab, susequently switched
   to ceftriaxone. By Also with 2/4  bottles GPC- has 2 PIV
s, R IJ, a
   line placed currently.
   - on ceftriaxone for klebsiella (start date [**2168-8-31**]), will switch to
   cefuroxime when pt goes home
   -coag negative staph in blood cultures (in aerobic bottle, still
   identified as GPC in anerobic bottle). Added on sensitivities today.
   Will continue vancomycin for now, pending sensitivites. Will culture
   tip of all lines pulled.
   -pna seems unlikely, d/c'ed azithromycin yesterday
   .
   # Hypoxic respiratory failure: Improved, pt doing well extubated.
   .
   #Complex Liver Cyst: will consider CT in future to further evaluate.
   .
   # Cardiac: No suggestion of ACS. Received ASA and heparin prior to
   transfer. CATH [**2164**] demonstrated 20% LMCA, 20-30% LAD, LCx 30% OM3, RCA
   minimal luminal irregularities to 30% distally.
   - Continue outpatient Aspirin 162 mg daily
   .
   # AFib on sotalol and coumadin. Sick sinus syndrome s/p PPM EKG
   demonstrates A-paced rhythm.
   - restarted sotalol as SBPs in high and was having considerable ectopy
   - INR 3.7 yesterday, now 1.7 s/p 1 unit FFP.
   .
   # Diabetes mellitus, type 2: ISS
   .
   # History CVA: Continue Keppra 500 mg b.i.d.
   .
   # Hyperlipidemia: Continue Lipitor 20 mg daily
   .
   # HTN: Patient on no outpatient medication for BP, cardiologist was
   considering ACE. Currently normotensive
   .
   # Asthma: intubated.
   .
   # GERD: home prilosec.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-8-31**] 07:45 PM
   Arterial Line - [**2168-9-1**] 02:15 AM
   Cordis/Introducer - [**2168-9-1**] 07:45 PM
   Multi Lumen - [**2168-9-1**] 08:00 PM
   20 Gauge - [**2168-9-3**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor